US08685977B2
To a solution of 4-bromo-2-chloro-1-(difluoromethoxy)benzene (Preparation 27, 0.83 g, 3.2 mmol) in THF (16 ml) was added 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane (0.90 g, 3.6 mmol), Pd(dppf)Cl2 (0.12 g, 0.16 mmol), and potassium acetate (0.98 g, 9.7 mmol) under N2 and the resulting mixture was heated to reflux for 2 hours. The reaction mixture was concentrated in vacuo and the residue filtered through a silica gel cake with arbocel on top washing through with EtOAc. The filtrate was concentrated in vacuo to give a crude product of 2-[3-chloro-4-(difluoromethoxy)phenyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane. A solution of crude of 2-[3-chloro-4-(difluoromethoxy)phenyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (1.0 g, 3.3 mmol) in acetone (10 ml) was added to an aqueous oxone solution (2.6 g, 3.9 mmol, 10 mL) dropwise with stirring at 0° C. for 1 hour. The reaction mixture was partitioned between water (20 ml) and EtOAc (20 ml), the combined organic phase was washed with brine, dried over sodium sulphate, filtered, and concentrated in vacuo to give a crude product, which was purified by silica gel chromatography eluting with 0-40% EtOAc in Heptane to afford the title compound (0.53 g, 82% yield) as a pale brown oil.

reactant | 4-bromo-2-chloro-1-(difluoromethoxy)benzene | 3.2 mmol, 0.83 g | BrC1=CC(=C(C=C1)OC(F)F)Cl | C7H4BrClF2O
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane | 3.6 mmol, 0.90 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 9.7 mmol, 0.98 g | C(C)(=O)[O-].[K+]
solvent | THF | 16 ml | C1CCOC1 | C4H8O
catalyst | Pd(dppf)Cl2 | 0.16 mmol, 0.12 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-[3-chloro-4-(difluoromethoxy)phenyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | ClC=1C=C(C=CC1OC(F)F)B1OC(C(O1)(C)C)(C)C | C13H16BClF2O3
